US07521462B2
Sodium triacetoxyborohydride (1.80 g, 8.49 mmol) is added to a stirred solution of 4-{[(2,4-dimethyl-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (1.71 g, 5.25 mmol), cyclopropanecarboxaldehyde (0.44 ml, 5.89 mmol), acetic acid (0.32 ml, 5.59 mmol), and 1,2-dichloroethane (35 ml). The reaction is stirred for 25 h at room temperature under nitrogen. The reaction is poured into 2N NaOH (100 ml) and extracted with ethyl acetate (100 ml×3). The ethyl acetate is dried over sodium sulfate and then the sodium sulfate is filtered off. The crude product is concentrated on a rotary evaporator and purified by flash chromatography on silica gel eluting with 40% ethyl acetate/hexanes to yield (1.98 g, 99%) of 4-{[cyclopropylmethyl-(2,4-dimethyl-thiazol-5-ylmethyl)]-amino}-piperidine-1-carboxylic acid tert-butyl ester: mass spectrum (ion spray): m/z=380.3 (M+1); 1H NMR (CDCl3): δ=4.18 (2H, brs), 3.74 (2H, s), 2.86-2.78 (1H, m), 2.70-2.60 (5H, m), 2.41 (2H, d), 2.32 (3H, s), 1.81-1.70 (2H, m), 1.50-1.39 (11H, m), 0.87-0.80 (1H, m), 0.53-0.46 (2H, m), 0.12-0.06 (2H, m).

reactant | Sodium triacetoxyborohydride | 8.49 mmol, 1.80 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-{[(2,4-dimethyl-thiazol-5-yl)methyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 5.25 mmol, 1.71 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=C(N=C(S1)C)C | C16H27N3O2S
reactant | cyclopropanecarboxaldehyde | 5.89 mmol, 0.44 ml | C1(CC1)C=O | C4H6O
reactant | acetic acid | 5.59 mmol, 0.32 ml | C(C)(=O)O | C2H4O2
reactant | NaOH | 2N, 100 ml | [OH-].[Na+]
solvent | 1,2-dichloroethane | 35 ml | ClCCCl | C2H4Cl2
product | 4-{[cyclopropylmethyl-(2,4-dimethyl-thiazol-5-ylmethyl)]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 1.98 g, 99% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(C1=C(N=C(S1)C)C)CC1CC1 | C20H33N3O2S
